US05399568
1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(3-pyridylmethyl)piperidine.
A solution of 1-[1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)4-piperidyl]-1-(3-pyridyl)methanol acetate, prepared as in Example 53, (175 mg, 0.40 mmol), ammonium formate (175 mg, 2.78 mmol), and 10% palladium on carbon (175 mg) were heated to reflux in methanol (6 mL) under nitrogen (g) for 8 h. Additional ammonium formate (175 mg, 2.78 mmol) was added and heating was continued for an additional 8 h. The suspension was filtered through celite and the solids were washed thoroughly with methanol and ethyl acetate. Concentration of the filtrate left an off white foam. Flash chromatography on silica using 3% methanol/dichloromethane gave the title compound as a colorless glass (100mg, 0.26 mmol, 66%). This was dissolved in methanolic hydrogen chloride and concentrated from methanol (3×100 mL) to give the hydrochloride salt, mp 183°-185° C.

reactant | 1-[1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)4-piperidyl]-1-(3-pyridyl)methanol acetate | C(C)(=O)OC(C=1C=NC=CC1)C1CCN(CC1)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C29H30N2O2
reactant | ammonium formate | 0.40 mmol, 175 mg | C(=O)[O-].[NH4+]
reactant | ammonium formate | 2.78 mmol, 175 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 175 mg | [Pd] | Pd
solvent | methanol | 6 mL | CO | CH4O
product | 1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(3-pyridylmethyl)piperidine | 0.26 mmol, 100mg, 66% | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)CC=3C=NC=CC3 | C27H28N2
